### PR TITLE
[Merged by Bors] -  feat(Combinatorics/SimpleGraph): Add a theorem about cliques in induced subgraphs

### PR DESCRIPTION
**Pull request by ooovi**
Add theorems giving a clique in the supergraph if there is a clique in a subgraph induced by a superset of the clique, as well as theorems about independent sets in induced subgraphs on G.

---
I needed these theorems for a proof about Ramsey numbers. Maybe it would be interesting to have in the `mathlib`?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -148,6 +148,14 @@ protected theorem IsClique.finsetMap {f : α ↪ β} {s : Finset α} (h : G.IsCl
     (G.map f).IsClique (s.map f) := by
   simpa
 
+/-- If a set of vertices `A` is a clique in subgraph of `G` induced by a superset of `A`,
+ it's embedding is a clique in `G`. -/
+theorem induce_isClique {S : Subgraph G} {F : Set α} {A : Set F} (c : (S.induce F).coe.IsClique A) :
```
Comment (pimotte) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:153]: Depending on what you need it for it might also make sense to use `coeSpanning` instead along with an hypothesis of the form `(h : A ⊆ F)`. I think this is also fine, it just depends on your usecase. Also holds for the other lemma's.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -148,6 +148,14 @@ protected theorem IsClique.finsetMap {f : α ↪ β} {s : Finset α} (h : G.IsCl
...
+    G.IsClique (Subtype.val '' A) := by
+  simp_all [Set.Pairwise]
```
Comment (pimotte) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:155]: If simp(_all) is not the tactic that closes the goal, you'll want to squeeze the simp (in this case by using the output from `simp_all?`). This ensures that the rest of the proof remains valid if more simp lemma's are added in the future. Also holds for the other lemmas except `induce_isIndepSet_iff`, because there it is the final call.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -732,6 +754,15 @@ instance [DecidableEq α] [DecidableRel G.Adj] {n : ℕ} {s : Finset α} :
...
   decidable_of_iff' _ (G.isNIndepSet_iff n s)
 
+/-- The embedding of an `n`-independent set of an induced subgraph of the subgraph `G` is an
+`n`-independent set in `G` and vice versa. -/
+theorem induce_isNIndepSet_iff {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ} :
+    ((⊤ : Subgraph G).induce F).coe.IsNIndepSet n ↑s ↔
+    G.IsNIndepSet n (Finset.map ⟨Subtype.val, Subtype.val_injective⟩ s) := by
+  simp [isNIndepSet_iff]
+  intro
+  exact induce_isIndepSet_iff G
```
Comment (pimotte) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:764]:
```suggestion
  exact fun _ ↦ induce_isIndepSet_iff G
```
Just a small golf

**Review by pimotte — COMMENTED** [review]
Thanks for your PR!

Looks good to me in general, I left some small remarks. Also note that this is the first time I'm reviewing something for mathlib, so chances are someone more knowledgeable will have some more feedback later:)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 2 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Yep, looks good to me:)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 1 above)
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:153]: Do you mean something like this?
```
theorem spanning_isClique {S : Subgraph G} {A : Set S.verts} (c : S.spanningCoe.IsClique A) :
    G.IsClique (Subtype.val '' A) := by
```
I could also add those, if that's a use case that's expected to come up. The induced subgraph way perfect for my situation :)

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:153]: I meant something along these lines (but yours is also a valid alternative):

```
theorem induce_isClique {S : Subgraph G} {F A : Set α} (h : A ⊆ F)  (c : (S.induce F).spanningCoe.IsClique A)  : 
    G.IsClique A := by sorry
``

In any case, if you don't need either of these I'd personally say to just leave it at this until we do, but I'm happy to be overruled by someone with a better big picture overview:)

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -244,6 +253,15 @@ theorem is3Clique_iff_exists_cycle_length_three :
...
     (fun ⟨_, .cons hab (.cons hbc (.cons hca nil)), _, _⟩ => ⟨_, _, _, _, hab, hca.symm, hbc, rfl⟩)⟩
 
+/-- If a set of vertices `A` is an `n`-clique in subgraph of `G` induced by a superset of `A`,
+ it's embedding is an `n`-clique in `G`. -/
+theorem induce_isNClique {S : Subgraph G} {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ}
+    (cc : (S.induce F).coe.IsNClique n ↑s) :
+  G.IsNClique n (Finset.map ⟨Subtype.val, Subtype.val_injective⟩ s) := by
+rw [isNClique_iff] at cc ⊢
+simp only [Subgraph.induce_verts, coe_map, card_map]
+exact ⟨induce_isClique cc.left, cc.right⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:263]:
```suggestion
    G.IsNClique n (Finset.map ⟨Subtype.val, Subtype.val_injective⟩ s) := by
  rw [isNClique_iff] at cc ⊢
  simp only [Subgraph.induce_verts, coe_map, card_map]
  exact ⟨induce_isClique cc.left, cc.right⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -703,6 +721,12 @@ theorem isIndepSet_neighborSet_of_triangleFree [DecidableEq α] (h: G.CliqueFree
   obtain ⟨j, avj, k, avk, _, ajk⟩ := nind
   exact h {v, j, k} (is3Clique_triple_iff.mpr (by simp [avj, avk, ajk]))
 
+/-- The embedding of an independent set of an induced subgraph of the subgraph `G` is an independent
+ set in `G` and vice versa. -/
+theorem induce_isIndepSet_iff {F : Set α} {s : Set F} :
+    ((⊤ : Subgraph G).induce F).coe.IsIndepSet s ↔ G.IsIndepSet (Subtype.val '' s) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:727]: * Head functions should come first in the lemma name, unless they are postfix notation (dot notation isn't considered postfix notation)
* `_iff` and `_eq` should be dropped unless necessary for disambiguation
```suggestion
theorem isIndepSet_induce {F : Set α} {s : Set F} :
    ((⊤ : Subgraph G).induce F).coe.IsIndepSet s ↔ G.IsIndepSet (Subtype.val '' s) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -732,6 +756,14 @@ instance [DecidableEq α] [DecidableRel G.Adj] {n : ℕ} {s : Finset α} :
     Decidable (G.IsNIndepSet n s) :=
   decidable_of_iff' _ (G.isNIndepSet_iff n s)
 
+/-- The embedding of an `n`-independent set of an induced subgraph of the subgraph `G` is an
+`n`-independent set in `G` and vice versa. -/
+theorem induce_isNIndepSet_iff {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ} :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:761]: Similarly,
```suggestion
theorem isNIndepSet_induce {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ} :
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 7]
```diff
@@ -244,6 +253,15 @@ theorem is3Clique_iff_exists_cycle_length_three :
     ⟨(fun ⟨_, a, _, _, hab, hac, hbc, _⟩ => ⟨a, cons hab (cons hbc (cons hac.symm nil)), by aesop⟩),
     (fun ⟨_, .cons hab (.cons hbc (.cons hca nil)), _, _⟩ => ⟨_, _, _, _, hab, hca.symm, hbc, rfl⟩)⟩
 
+/-- If a set of vertices `A` is an `n`-clique in subgraph of `G` induced by a superset of `A`,
+ it's embedding is an `n`-clique in `G`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:257]:
```suggestion
 its embedding is an `n`-clique in `G`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -732,6 +756,14 @@ instance [DecidableEq α] [DecidableRel G.Adj] {n : ℕ} {s : Finset α} :
     Decidable (G.IsNIndepSet n s) :=
   decidable_of_iff' _ (G.isNIndepSet_iff n s)
 
+/-- The embedding of an `n`-independent set of an induced subgraph of the subgraph `G` is an
+`n`-independent set in `G` and vice versa. -/
+theorem induce_isNIndepSet_iff {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ} :
+    ((⊤ : Subgraph G).induce F).coe.IsNIndepSet n ↑s ↔
+    G.IsNIndepSet n (Finset.map ⟨Subtype.val, Subtype.val_injective⟩ s) := by
+  simp only [isNIndepSet_iff, coe_map, card_map, and_congr_left_iff]
+  exact fun _ ↦ induce_isIndepSet_iff G
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:765]: I would expect something like this to work
```suggestion
  simp [isNIndepSet_iff, induce_isIndepSet_iff]
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 9]
```diff
@@ -703,6 +721,12 @@ theorem isIndepSet_neighborSet_of_triangleFree [DecidableEq α] (h: G.CliqueFree
   obtain ⟨j, avj, k, avk, _, ajk⟩ := nind
   exact h {v, j, k} (is3Clique_triple_iff.mpr (by simp [avj, avk, ajk]))
 
+/-- The embedding of an independent set of an induced subgraph of the subgraph `G` is an independent
+ set in `G` and vice versa. -/
+theorem induce_isIndepSet_iff {F : Set α} {s : Set F} :
+    ((⊤ : Subgraph G).induce F).coe.IsIndepSet s ↔ G.IsIndepSet (Subtype.val '' s) := by
+  simp_all [Set.Pairwise]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:728]: There's no assumption, so `simp_all` is useless:
```suggestion
  simp [Set.Pairwise]
```
or possibly
```suggestion
  simp +contextual [Set.Pairwise]
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 10]
```diff
@@ -148,6 +148,15 @@ protected theorem IsClique.finsetMap {f : α ↪ β} {s : Finset α} (h : G.IsCl
     (G.map f).IsClique (s.map f) := by
   simpa
 
+/-- If a set of vertices `A` is a clique in subgraph of `G` induced by a superset of `A`,
+ it's embedding is a clique in `G`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:152]:
```suggestion
 its embedding is a clique in `G`. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 11]
```diff
@@ -244,6 +253,15 @@ theorem is3Clique_iff_exists_cycle_length_three :
     ⟨(fun ⟨_, a, _, _, hab, hac, hbc, _⟩ => ⟨a, cons hab (cons hbc (cons hac.symm nil)), by aesop⟩),
     (fun ⟨_, .cons hab (.cons hbc (.cons hca nil)), _, _⟩ => ⟨_, _, _, _, hab, hca.symm, hbc, rfl⟩)⟩
 
+/-- If a set of vertices `A` is an `n`-clique in subgraph of `G` induced by a superset of `A`,
+ it's embedding is an `n`-clique in `G`. -/
+theorem induce_isNClique {S : Subgraph G} {F : Set α} {s : Finset { x // x ∈ F }} {n : ℕ}
+    (cc : (S.induce F).coe.IsNClique n ↑s) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:259]: What is this coercion doing? Is it not the identity
```suggestion
    (cc : (S.induce F).coe.IsNClique n s) :
```

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR, and you Pim for the review! Here are a few more comments.

**Comment by YaelDillies** [comment]
> I needed these theorems for a proof about Ramsey numbers. Maybe it would be interesting to have in the `mathlib`?

What proof? I assume you're aware of @b-mehta's formalisation of Ramsey numbers? Just making sure you're not duplicating effort, there's enough to do like this 😉

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 8 above)
Comment (ooovi) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: I would expect the same, but there is something really odd happening. your suggestion of 
`simp [isNIndepSet_iff, isIndepSet_induce]`
cannot prove the goal, but
` simp [isNIndepSet_iff, (isIndepSet_induce)]`
can! I did not believe my eyes, but the ci build seems to agree with me (see the latest two commits). I am now very confused.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
